US05610295
(a) 2,3,4,5,6,7-Hexahydro-1-[4-(N-benzyl-N-methylamino)-2-phenylbutanoyl]-1H-azepine
A solution of 2,3,4,5,6,7-hexahydro-1-[4-chloro-2-phenylbutanoyl]-1H-azepine (10.0 g, 35.7 mmol) in acetonitrile (100 ml) was added to a solution of N-methylbenzylamine (4.03 g, 33.3 mmol) and diisopropylethylamine (4.62 g, 35.7 mmol) in acetonitrile (40 ml) and the reaction mixture stirred at room temperature overnight. The reaction mixture was concentrated under reduced pressure and the residue dissolved in water (100 ml). The aqueous phase was washed with ethyl acetate (3×50 ml) and the combined organic phases washed with brine (50 ml), water (50 ml), dried (MgSO4) and concentrated under reduced pressure. The crude oil obtained was chromatographed on alumina, eluting with hexane:ethyl acetate (2:1) to afford the title compound as an oil (6.93 g, 53%).

reactant | 2,3,4,5,6,7-hexahydro-1-[4-chloro-2-phenylbutanoyl]-1H-azepine | 35.7 mmol, 10.0 g | ClCCC(C(=O)N1CCCCCC1)C1=CC=CC=C1 | C16H22ClNO
reactant | N-methylbenzylamine | 33.3 mmol, 4.03 g | CNCC1=CC=CC=C1 | C8H11N
reactant | diisopropylethylamine | 35.7 mmol, 4.62 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | 2,3,4,5,6,7-Hexahydro-1-[4-(N-benzyl-N-methylamino)-2-phenylbutanoyl]-1H-azepine | 6.93 g, 53% | C(C1=CC=CC=C1)N(C)CCC(C(=O)N1CCCCCC1)C1=CC=CC=C1 | C24H32N2O
